US06962917B2
4-Amino-1-tert-butoxycarbonylpiperidine-4-carboxylic acid (18.0 g) was dissolved in 0.03M aqueous sodium hydroxide (750 mL), and 1,2-dimethoxyethane (100 mL). The pH was adjusted to 9.5 with dilute hydrochloric acid, and the suspension was added to an ice-cold solution of N-(benzyloxycarbonyloxy)succinimide (28.8 g) in 1,2-dimethoxyethane (100 mL). The pH was kept at 9.5 by addition of aq. sodium hydroxide, and the mixture was stirred at room temperature. More N-(benzyloxycarbonyloxy)succinimide (3 g) was added after 7 h, then stirring continued overnight. After evaporation to remove the 1,2-dimethoxyethane, the aqueus residue was extracted with ether then acidified to pH 4 and extracted with ethyl acetate. This extract was washed with dilute hydrochloric acid, water and brine, dried and evaporated. Trituration of the oily residue gave 4-benzyloxycarbonylamino-1-tert-butoxycarbonylpiperidine-4-carboxylic acid (23 g). This acid (9.62 g) was esterified by treatment with alkyl bromide (2.2 mL), potassium carbonate (7.04 g) and potassium iodide (catalytic) in acetone (100 mL) under reflux for 20 h. Evaporation, partitioning of the residue between dichloromethane and water and evaporation of the organic phase gave the alkyl ester (10.2 g). This was then treated with trifluoroacetic acid in dichloromethane (1.5 h, room temp.) to give, after basification of the triflate salt and extraction with dichloromethane/methanol, the piperidine free base (6.58 g).

reactant | 4-Amino-1-tert-butoxycarbonylpiperidine-4-carboxylic acid | 18.0 g | NC1(CCN(CC1)C(=O)OC(C)(C)C)C(=O)O | C11H20N2O4
reactant | hydrochloric acid | Cl | ClH
reactant | N-(benzyloxycarbonyloxy)succinimide | 28.8 g | C(C1=CC=CC=C1)OC(=O)ON1C(CCC1=O)=O | C12H11NO5
reactant | N-(benzyloxycarbonyloxy)succinimide | 3 g | C(C1=CC=CC=C1)OC(=O)ON1C(CCC1=O)=O | C12H11NO5
solvent | sodium hydroxide | 0.03M, 750 mL | [OH-].[Na+]
solvent | 1,2-dimethoxyethane | 100 mL | COCCOC | C4H10O2
solvent | 1,2-dimethoxyethane | 100 mL | COCCOC | C4H10O2
product | 4-benzyloxycarbonylamino-1-tert-butoxycarbonylpiperidine-4-carboxylic acid | 23 g | C(C1=CC=CC=C1)OC(=O)NC1(CCN(CC1)C(=O)OC(C)(C)C)C(=O)O | C19H26N2O6
